US04734430
A mixture of 7 grams of 5,6,7,8-tetrahydro-1-methyl4(1H)-cycloheptapyrazolone, 2.3 grams of sodium hydride (97%), 12 ml of ethyl formate, 2 drops of ethanol and 100 ml of tetrahydrofuran was heated at reflux for 3 hours. The mixture was then cooled and partitioned between water and ether. The aqueous layer was washed once with ether and acidified to a pH of 5 with 1 N hydrochloric acid. The white precipitate which formed was separated by filtration and dried to give 5,6,7,8-tetrahydro-5-hydroxymethylene-1-methyl-4(1H)-cycloheptapyrazolone as a cream colored powder melting at about 133°-135° C.

reactant | 5,6,7,8-tetrahydro-1-methyl4(1H)-cycloheptapyrazolone | 7 grams | CN1N=CC2=C1CCCCC2=O | C9H12N2O
reactant | sodium hydride | 2.3 grams | [H-].[Na+]
reactant | ethyl formate | 12 ml | C(=O)OCC | C3H6O2
catalyst | ethanol | 2 drops | C(C)O | C2H6O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5,6,7,8-tetrahydro-5-hydroxymethylene-1-methyl-4(1H)-cycloheptapyrazolone | OC=C1CCCC2=C(C=NN2C)C1=O | C10H12N2O2
